Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"I'm anxious about school, a relationship, and personal things."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with a reported history of OCD, anxiety, and 
depression who presents with increasing anxiety/depression and 
passive suicidal ideation; she recently scratched her left arm 
with scissors a few days ago. She has no history of suicide 
attempts and has not come up with a plan. She reports she was on 
sertraline until ___, when she ran out.

Regarding her reported history of OCD, she describes a number of 
compulsive behaviors including repetitive typing/deleting and 
writing/crossing out due to fears that the devil might read what 
she's writing, repetitive opening and closing of doors, and 
actions related to cleanliness (washing hands or washing
eyes/face). These have been going on for quite some time (since 
the ___ grades), but have become more intrusive since 
___. She describes visual perceptual disturbances in which 
she will question things that she sees or convince herself that 
she sees something that's not really there. She also has a
pattern of odd thoughts, including: 1) every time she has 
numbness in her hands, reality ceases; and 2) had a dream that 
she murdered her mother, who was subsequently replaced by an 
impostor, and she now often sees references to that dream. The 
sum of these behaviors has led her to be less able to complete
school work and less able to participate in soccer. In turn, she 
reports decreased concentration, anhedonia, a depressed and 
anxious mood, and SI as described above.

ED COURSE:
She was calm and cooperative. No chemical restraint was 
required.

In the ED, I spoke briefly to the patient's father, ___
(___). He stated that she started to think she had OCD
in sophomore year of high school. A year later, in ___,
she had a "melt down" and was hospitalized at ___. There, she was diagnosed with "anxiety" and connected
to an outpatient psychiatrist in ___. She was started on
sertraline and continued it until moving to ___ for college.
However, her psychiatrist no longer wished to prescribe
sertraline once she moved across state lines, so she stopped
taking it when she ran out. The father says that she has a habit
of "punching in" various symptoms on the computer and coming up
with diagnoses for herself. Her only official psychiatric
diagnosis is anxiety.

He states on the night before presentation, she had called him
(1am on ___ as well as other family members and stated that 
she
was depressed and suicidal. Prior to that, he thought that
everything was going well for her. A number of discussions with
family members and school officials ensued, and she was
ultimately sent to the ___ ED later in the day on ___.

In general, Ms. ___ is a bright person. She was in the honor
society at her high school and had 3.67 GPA while also 
captaining
the school's soccer team.

ON ARRIVAL TO DEAC 4:
She corroborated much of the HPI as described above. She was
somewhat anxious but that was not related to the new 
environment;
she was open to trying PRN hydroxyzine for tonight, until
discussing further medication management with her primary team.
She felt comfortable in the unit and denied feelings/thoughts of
persecution, active SI, or auditory hallucinations. She 
continued
to endorse questioning things she sees and being able to
"convince herself" that she sees certain things.

ROS: All systems reviewed and were negative.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: hospitalized at ___ for a 
"melt
down"
Current treaters and treatment: 
-Therapist, psychologist: ___ ___ 
-Former psychiatrist in ___
Medication and ECT trials: Zoloft
Self-injury: hx of cutting in the past
Harm to others: denies
Access to weapons: denies access to guns

PAST MEDICAL HISTORY:
?Asthma
 
Social History:
SUBSTANCE ABUSE HISTORY:
Alcohol: reports she does not drink on a regular basis, last 
drank on school break a total of 3 glasses of wine
illicits: denies
tob: denies
caffeine: coffee and soda

SOCIAL HISTORY:
___
Family History:
Denied
 
Physical Exam:
ADMISSION:
T: 98.5, P: 71, BP: 121/73, RR: 18, SpO2: 100% on RA
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. 
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: chapped lips, acne over cheeks
NEUROLOGICAL:
 *Cranial Nerves- II-XII intact and symmetric bilaterally, no
nystagmus
 *Motor- Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. Strength full power at 5s throughout.
 *Coordination- Normal on finger mirror.
 *Deep tendon reflexes- 2+ and symmetrical in biceps, triceps,
patellar, and Achilles DTRs, toes ___.
 *Sensation- intact and symmetric to light touch in UEs and LEs
 *Gait- normal.
NEUROPSYCHIATRIC EXAMINATION:
* Appearance: Young ___ woman with chapped lips and
uncombed, kinky hair who seems a bit anxious and sits in her
chair turned slightly away from me, limbs kept close to core. At
times, she has a slightly distant smile. She wears a hospital
gown and is also wrapped in a blanket. 
* Behavior: She makes minimal eye contact and her eyes are very
shifty. She is cooperative with interview though she started out
slightly guarded.
* Orientation: A&O to person, place, time/date
* Mood: "anxious" 
* Affect: Appears slightly anxious but the affect is fairly
restricted in range. She will occasionally smile, though not
entirely congruent with conversation.
* Thought Process: there is some latency and tangentiality, and
she frequently refers back to her OCD behaviors or dream
* Thought Content: endorses "questioning" what she sees, 
endorses
passive SI, endorses ideas of reference when she hears or sees
the words "act" or "replacement" (she thinks they refer to her
dream), denies AH/HI
* Judgment: limited
* Insight: limited
* Speech/Language: soft spoken, appropriate quantity, fluent
___, no paraphasic errors

DISCHARGE:

NEUROPSYCHIATRIC EXAMINATION:
*Appearance: No acute distress. Well-groomed, dressed in outside 
clothes (pink t-shirt, pajama pants). 
  *Behavior: Sitting upright and engaged with interviewers. 
Makes
 frequent eye contact. 
  *Mood: 'pretty good'
  *Affect: Euthymic with range within normal limits, congruent 
with mood and content of conversation with appropriate laughter
  *Thought process: Linear and goal directed. No apparent loose
associations.
  *Thought content: Endorses intrusive thoughts. Denies auditory
and visual hallucinations. Denies HI/active SI.
  *Judgment and Insight: Fair, fair
  Cognition:
    *Attention, *orientation, and executive function: A&Ox3.
    *Memory: deferred.
    *Fund of knowledge: Appropriate.
    Calculations: Deferred.
    Abstraction: Deferred.
    Visuospatial: Deferred.
    *Speech: Normal rate, volume and prosody
    *Language: Fluent ___. No paraphasic errors
 
Pertinent Results:
___ 03:50PM   GLUCOSE-98 UREA N-9 CREAT-0.8 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-21* ANION GAP-16
___ 03:50PM   estGFR-Using this
___ 03:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  UCG-NEGATIVE
___ 03:50PM URINE  GR HOLD-HOLD
___ 03:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:50PM   WBC-4.1 RBC-3.90 HGB-12.2 HCT-37.9 MCV-97 
MCH-31.3 MCHC-32.2 RDW-13.7 RDWSD-48.7*
___ 03:50PM   NEUTS-39.2 ___ MONOS-8.8 EOS-2.4 
BASOS-1.0 IM ___ AbsNeut-1.61 AbsLymp-1.93 AbsMono-0.36 
AbsEos-0.10 AbsBaso-0.04
___ 03:50PM   PLT COUNT-314
___ 03:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-TR
___ 03:50PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 03:50PM URINE  MUCOUS-MANY
 
Brief Hospital Course:
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a Conditional Voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was monitored on 15 minute checks 
status on admission and remained on that level of observation 
throughout admission, while being unit restricted.

2. PSYCHIATRIC:
#) OCD & Depression: 
___ is an ___ y/o female, with past psychiatric history of 
anxiety, depression, and OCD traits, who was brought in from her 
school with increased anxiety/depression, passive suicidal 
ideation and recent self injurious behaviors. This history is 
most consistent with OCD with delusions, with the differential 
including a possible first episode of psychosis or unspecified 
depressive disorder. On interview, patient reported increasing 
frequency of recurrent intrusive thoughts and recurrent 
behaviors to alleviate these fears, particularly since ___, 
which recently are
causing severe distress and inability to function. She 
demonstrated intact reality testing, stating these fears are 
"irrational" and "embarrassing" but still compel her to do 
repetitive behaviors to avoid anxiety attacks. These repetitive 
behaviors occur in the context of opening and closing doors, 
changing clothes, showering, and repetitive writing/typing and 
erasing. She also reported increased intensity of suicidal 
thoughts over the past week after reading a textbook chapter 
about suicide. 

During her stay, ___ was started on Fluvoxamine, Abilify, and 
PRN Lorazepam. Due to significant nausea, Abilify was 
discontinued and Ziprasidone was started. She was discharged on 
a well-tolerated regimen of Fluvoxamine and Ziprasidone. 

3. SUBSTANCE USE DISORDERS:
#) NONE

4. MEDICAL:
___ had a fall without injury in the setting poor PO intake, 
nausea and vomiting, and findings of orthostatic vital signs. 
This was attributed to orthostasis due to hypovolemia. Other 
etiologies, including metabolic, neurologic and cardiac, were 
ruled out. She had no further falls after her nausea resolved 
from discontinuing Abilify and her PO intake improved. She had 
no other new or acute medical problems during her stay. 

5. PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The patient was initially isolative but did gradually 
increase participation in groups.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT :
-Pt's mother and father were involved in pt's care while 
hospitalized. 
-Pt had no current psychiatrist at time of initial presentation.
- Current therapist, Dr. ___

#) INTERVENTIONS:
-Medication: Pt was started on Fluvoxamine, Ziprasidone and PRN 
Lorazepam.
-Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
-Care coordination: Pt was referred to a psychiatrist and will 
continue with her therapist.

INFORMED CONSENT: The Team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her worsening OCD & 
depression and suicidal ideation. Patient's risk factors noted 
at that time include chronic mental illness, single status,  h/o 
self injurious behavior, history of suicidal ideation, and 
isolation (away from major supports of boyfriend and family). 
Finally, the patient is being discharged with many protective 
risk factors, including help-seeking nature, future-oriented 
viewpoint, problem-solving skills, strong connections to family, 
and past psychiatric treatment. Overall, based on the totality 
of our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
None
 
Discharge Medications:
Fluvoxamine 150 mg PO BID
Ziprasidone 40 mg PO DINNER
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obsessive-Compulsive Disorder and depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for worsening OCD symptoms and 
depression. We started you on medications, and you are now ready 
for discharge and continued treatment as an outpatient.

-Please follow up with all outpatient appointments as listed -
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether
prescription drugs or illegal drugs--as this can further worsen
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you
feel unsafe in any way and are unable to immediately reach your
health care providers.

*It was a pleasure to have worked with you, and we wish you the
best of health.
 
Followup Instructions:
___